US08039490B2
Benzo[1,3]dioxole-5-carboxylic acid (trans-4-{2-[4-(5-chloro-thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
From {1-[2-(trans-4-amino-cyclohexyl)-ethyl]-piperidin-4-yl}-(5-chloro-thiophen-2-yl)-methanone dihydrochloride (100 mg) and benzo[1,3]dioxole-5-carboxylic acid (45 mg) by procedure C. Yield: 62 mg (52%). Off-white solid. MS (m/z): 503.2 ([M+H]+).

reactant | {1-[2-(trans-4-amino-cyclohexyl)-ethyl]-piperidin-4-yl}-(5-chloro-thiophen-2-yl)-methanone dihydrochloride | 100 mg | Cl.Cl.N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)C(=O)C=1SC(=CC1)Cl
reactant | benzo[1,3]dioxole-5-carboxylic acid | 45 mg | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
product | Benzo[1,3]dioxole-5-carboxylic acid (trans-4-{2-[4-(5-chloro-thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | ClC1=CC=C(S1)C(=O)C1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(=O)C1=CC2=C(OCO2)C=C1 | C26H31ClN2O4S
